### PR TITLE
[Merged by Bors] - feat: establish examples of harmonic functions

### PR DESCRIPTION
**Pull request by kebekus**
If `f : ℂ → F` is complex-differentiable, then show that `f` is harmonic. If `F = ℂ`, then so is its real part, imaginary part, and complex conjugate. If `f` has no zero, then `log ‖f‖` is harmonic.

This material is used in [Project VD](https://github.com/kebekus/ProjectVD), which aims to formalize Value Distribution Theory for meromorphic functions on the complex plane. It is one of the ingredients in the proof of Jensen's Formula in complex analysis.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Analysis/InnerProductSpace/Harmonic/Constructions.lean [hunk 1]
```diff
@@ -0,0 +1,131 @@
...
+/-!
+## Harmonicity of Analytic Functions on the Complex Plane
+-/
+
+/--
+Continuously complex-differentiable functions on ℂ are harmonic.
+-/
+theorem ContDiffAt.harmonicAt (h : ContDiffAt ℂ 2 f x) : HarmonicAt f x := by
+  constructor
+  · exact h.restrict_scalars ℝ
```
Comment (grunweg) [inline Mathlib/Analysis/InnerProductSpace/Harmonic/Constructions.lean]: You could use `refine ⟨h.restrict_scalars ℝ, ?_⟩ and unindent the other goal.

File: Mathlib/Analysis/InnerProductSpace/Harmonic/Constructions.lean [hunk 2]
```diff
@@ -0,0 +1,131 @@
...
+        = (∏ i, I) • ((iteratedFDeriv ℂ 2 f a) ![1, 1]) :=
+      (iteratedFDeriv ℂ 2 f a).map_smul_univ (fun _ ↦ I) ![1, 1]
+    simp_all [laplacian_eq_iteratedFDeriv_complexPlane f, ← ha,
+      ContinuousMultilinearMap.coe_restrictScalars]
+
+/--
+Analytic functions on ℂ are harmonic.
+-/
+theorem AnalyticAt.harmonicAt [CompleteSpace F] (h : AnalyticAt ℂ f x) :
+    HarmonicAt f x := h.contDiffAt.harmonicAt
```
Comment (grunweg) [inline Mathlib/Analysis/InnerProductSpace/Harmonic/Constructions.lean]: I'd write that in a more compressed way:
```suggestion
/-- Analytic functions on ℂ are harmonic. -/
theorem AnalyticAt.harmonicAt [CompleteSpace F] (h : AnalyticAt ℂ f x) : HarmonicAt f x :=
  h.contDiffAt.harmonicAt

File: Mathlib/Analysis/InnerProductSpace/Harmonic/Constructions.lean [hunk 3]
```diff
@@ -0,0 +1,131 @@
...
+-/
+
+/- Helper lemma for AnalyticAt.harmonicAt_log_norm -/
+private lemma slitPlaneLemma {z : ℂ} (hz : z ≠ 0) : z ∈ slitPlane ∨ -z ∈ slitPlane := by
+  rw [mem_slitPlane_iff, mem_slitPlane_iff]
+  rw [ne_eq, Complex.ext_iff] at hz
+  push_neg at hz
+  simp_all only [ne_eq, zero_re, zero_im, neg_re, Left.neg_pos_iff, neg_im, neg_eq_zero]
+  by_contra contra
+  push_neg at contra
```
Comment (grunweg) [inline Mathlib/Analysis/InnerProductSpace/Harmonic/Constructions.lean]: by_contra followed by push_neg can usually be shortened to `by_contra!`

File: Mathlib/Analysis/InnerProductSpace/Harmonic/Constructions.lean [hunk 4]
```diff
@@ -0,0 +1,131 @@
...
+-/
+theorem ContDiffAt.harmonicAt_conjugate {f : ℂ → ℂ} (h : AnalyticAt ℂ f x) :
+  HarmonicAt (conjCLE ∘ f) x := (harmonicAt_comp_CLE_iff conjCLE).2 h.harmonicAt
+
+/-!
+## Harmonicity of `log ‖analytic‖`
+-/
+
+/- Helper lemma for AnalyticAt.harmonicAt_log_norm -/
+private lemma slitPlaneLemma {z : ℂ} (hz : z ≠ 0) : z ∈ slitPlane ∨ -z ∈ slitPlane := by
```
Comment (grunweg) [inline Mathlib/Analysis/InnerProductSpace/Harmonic/Constructions.lean]: Could this lemma be useful more broadly? Can you move this next to slitPlan, and give it a more mathlib-style name?

**Review by grunweg — COMMENTED** [review]
Thanks. A few minor comments about style.

File: Mathlib/Analysis/InnerProductSpace/Harmonic/Constructions.lean (hunk 1 above)
Comment (kebekus) [reply Mathlib/Analysis/InnerProductSpace/Harmonic/Constructions.lean]: Done.

File: Mathlib/Analysis/InnerProductSpace/Harmonic/Constructions.lean (hunk 3 above)
Comment (kebekus) [reply Mathlib/Analysis/InnerProductSpace/Harmonic/Constructions.lean]: Done.

File: Mathlib/Analysis/InnerProductSpace/Harmonic/Constructions.lean (hunk 4 above)
Comment (kebekus) [reply Mathlib/Analysis/InnerProductSpace/Harmonic/Constructions.lean]: Yes. Implemented as suggested.

**Comment by kebekus** [comment]
@grunweg All done. Thanks!

File: Mathlib/Analysis/InnerProductSpace/Harmonic/Constructions.lean [hunk 5]
```diff
@@ -0,0 +1,118 @@
...
+
+/-- Analytic functions on ℂ are harmonic. -/
+theorem AnalyticAt.harmonicAt [CompleteSpace F] (h : AnalyticAt ℂ f x) : HarmonicAt f x :=
+  h.contDiffAt.harmonicAt
+
+/--
+If `f : ℂ → ℂ` is complex-analytic, then its real part is harmonic.
+-/
+theorem ContDiffAt.harmonicAt_realPart {f : ℂ → ℂ} (h : AnalyticAt ℂ f x) :
+    HarmonicAt (reCLM ∘ f) x := h.harmonicAt.comp_CLM reCLM
```
Comment (sgouezel) [inline Mathlib/Analysis/InnerProductSpace/Harmonic/Constructions.lean]:
```suggestion
    HarmonicAt (fun z ↦ (f z).re) x := h.harmonicAt.comp_CLM reCLM
```
The canonical spelling of the real part is just the function `Complex.re`. The fact that this turns out to be a continuous linear map is true, but not the standard way to use it, so better phrase your lemma with the canonical spelling (but still use the continuous linear map property in the proof).

Same thing below.

Also, I'd rename the lemma to `ContDiffAt.harmonicAt_re` because the real part is spellt `re` in the statement.

File: Mathlib/Analysis/InnerProductSpace/Harmonic/Constructions.lean [hunk 6]
```diff
@@ -0,0 +1,118 @@
...
+    (h₂g : g z ≠ 0) (h₃g : g z ∈ slitPlane) :
+    HarmonicAt (Real.log ∘ normSq ∘ g) z := by
+  rw [harmonicAt_congr_nhds (f₂ := reCLM ∘ (conjCLE ∘ log ∘ g + log ∘ g))]
+  · exact (((harmonicAt_comp_CLE_iff conjCLE).2 ((analyticAt_clog h₃g).comp h₁g).harmonicAt).add
+      ((analyticAt_clog h₃g).comp h₁g).harmonicAt).comp_CLM reCLM
+  · have t₀ := h₁g.differentiableAt.continuousAt.preimage_mem_nhds
+      ((isOpen_slitPlane.inter isOpen_ne).mem_nhds ⟨h₃g, h₂g⟩)
+    calc Real.log ∘ normSq ∘ g
+    _ =ᶠ[𝓝 z] reCLM ∘ ofRealCLM ∘ Real.log ∘ normSq ∘ g:= by
+      aesop
```
Comment (sgouezel) [inline Mathlib/Analysis/InnerProductSpace/Harmonic/Constructions.lean]:
```suggestion
    _ =ᶠ[𝓝 z] reCLM ∘ ofRealCLM ∘ Real.log ∘ normSq ∘ g := by aesop
```

**Review by sgouezel — COMMENTED** [review]
This looks great, thanks!

File: Mathlib/Analysis/InnerProductSpace/Harmonic/Constructions.lean (hunk 5 above)
Comment (kebekus) [reply Mathlib/Analysis/InnerProductSpace/Harmonic/Constructions.lean]: Implemented as requested. Also, move the lemma to the namespace "AnalyticAt", where they probably belong.

**Comment by sgouezel** [comment]
bors r+
Thanks!

**Comment by kebekus** [comment]
@grunweg @kebekus Thanks!
